US03996227
1-Isopropyl-4-Phenyl-5,6,7,8-Tetrahydro-2(1H)-Quinazolinone.
To 5.05 g. diisopropylamine in 50 ml. dry benzene is added butyl lithium (31.5 ml. of a 1.6N solution in hexane). After 15 minutes, 7.65 g. of 1-methyl-N-(cyclohexylidene)-ethylamine prepared as in Example 1 is added during about 2 minutes. 5.5 g. benzonitrile is added after 10 minutes to give a deep red solution, and after a further 10 minutes about 5 ml. of water are added, causing the color to change to pale yellow. After 30 minutes, 5 g. of phosgene in a 12.5% solution in benzene is added dropwise to this mixture at 0°. After 1 hour, the reaction was worked up as in Example 1 to give the same product.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | 1-methyl-N-(cyclohexylidene)-ethylamine | CC(C)N=C1CCCCC1 | C9H17N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | hexane | CCCCCC | C6H14
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-Isopropyl-4-Phenyl-5,6,7,8-Tetrahydro-2(1H)-Quinazolinone | C(C)(C)N1C(N=C(C=2CCCCC12)C1=CC=CC=C1)=O | C17H20N2O
